US07655666B2
To a solution of 2-amino-4-(1,1-difluoro-ethyl)-5-iodo-benzoic acid methyl ester (0.80 g, 2.35 mmol) in dioxane (10 mL) were added 1-methyl-5-tributylstannanyl-1H-pyrazole (1.05 g, 2.81 mmol) and Pd(PPh3)2Cl2 (168 mg, 0.235 mmol) and the resulting mixture was stirred at 90° C. for 72 h. The solvent was removed in vacuo to afford a dark oil. The crude product was purified by flash chromatography (silica gel, EtOAc/hexanes (0:10 to 3:7)) to give 2-amino-4-(1,1-difluoro-ethyl)-5-(2-methyl-2H-pyrazol-3-yl)-benzoic acid methyl ester (430 mg, 1.46 mmol, 62%). ES-MS: m/z 296 [M+H]+, rt 6.05 min.

reactant | 2-amino-4-(1,1-difluoro-ethyl)-5-iodo-benzoic acid methyl ester | 2.35 mmol, 0.80 g | COC(C1=C(C=C(C(=C1)I)C(C)(F)F)N)=O | C10H10F2INO2
reactant | 1-methyl-5-tributylstannanyl-1H-pyrazole | 2.81 mmol, 1.05 g | CN1N=CC=C1[Sn](CCCC)(CCCC)CCCC
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.235 mmol, 168 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-amino-4-(1,1-difluoro-ethyl)-5-(2-methyl-2H-pyrazol-3-yl)-benzoic acid methyl ester | 1.46 mmol, 430 mg, 62% | COC(C1=C(C=C(C(=C1)C=1N(N=CC1)C)C(C)(F)F)N)=O | C14H15F2N3O2
